US05635537
A mixture of (-)-2-(dipropylamino)-8-[(trifluromethylsulfonyl)oxyl]tetralin (910 mg, 2.4 mmol), tetramethylstannane (514 mg, 2.88 mmol), lithium chloride (315 mg, 7.44 mmol), dichloro[1,1'-bis(diphenylphosphino) ferrocene]-palladium(ii) [PdCl2 (dppf)] (12 mg, 0.144 mmol), molecular sieves (4 Å; 240 mg), 2,6-di-t-butyl-4-methylphenol (catalyst) in dimethylformamide (20 ml) was stirred under an atmosphere of carbon monoxide for 18 h at 90° C. The catalyst was filtered off and the filtrate was partitioned between water and ether. The organic layer was dried (sodium sulfate) and concentrated. The residue was chromatographed on an alumina column eluted with ether/light petroleum 1:16. Pure fractions were pooled and concentrated. The resulting oil was converted into the hydrochloride which was recrystallised from chloroform and ether to afford 323 mg (44%) of pure (-)-8-acetyl-2-(dipropylamino)tetralin hydrochloride, mp: 114°-116° C. [α]D :-123.2° C. (c 1.0, MeOH).

reactant | (-)-2-(dipropylamino)-8-[(trifluromethylsulfonyl)oxyl]tetralin | 2.4 mmol, 910 mg | C(CC)N(C1CC2=C(C=CC=C2CC1)OS(=O)(=O)C(F)(F)F)CCC | C17H24F3NO3S
reactant | tetramethylstannane | 2.88 mmol, 514 mg | C[Sn](C)(C)C
reactant | lithium chloride | 7.44 mmol, 315 mg | [Cl-].[Li+]
reactant | 2,6-di-t-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | dichloro[1,1'-bis(diphenylphosphino) ferrocene]-palladium(ii) | 0.144 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (-)-8-acetyl-2-(dipropylamino)tetralin hydrochloride | 323 mg, 44% | Cl.C(C)(=O)C=1C=CC=C2CCC(CC12)N(CCC)CCC | InChI=1S/C18H27NO.ClH/c1-4-11-19(12-5-2)16-10-9-15-7-6-8-17(14(3)20)18(15)13-16;/h6-8,16H,4-5,9-13H2,1-3H3;1H
